US08669271B2
4-[5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid isopropyl ester
The title compound is prepared from 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid isopropyl ester and 1-(methylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine following a procedure analogous to that described in Example 28. LC (method 7): tR=1.03 min; Mass spectrum (ESI+): m/z=450 [M+H]+.

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C16H21ClN2O3
reactant | 1-(methylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine | CS(=O)(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C12H22BNO4S
product | 4-[5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C=2CCN(CC2)S(=O)(=O)C)O1 | C22H31N3O5S
